US05658933
a) 3-(Methylthio)pyridine-2,5-dicarboxylic acid
4.6 g (12 mmol) of dibenzyl 3-chloropyridine-2,5-dicarboxylate were dissolved, at 20° C. and while stirring, in 30 ml of dimethyl sulfoxide, and after that 5.0 g (70 mmol) of sodium thiomethoxide were added, in association with which the temperature rose to 80° C. The reaction mixture was heated at 140° C. for 1 h and then cooled down, after which water was added to it; the oily layer was separated off and cone. hydrochloric acid (pH 1) was added to the aqueous DMSO phase, and the precipitated product was filtered off with suction. 2.8 g of yellow crystalline product were obtained, m.p. 223° C. (with decomposition).

reactant | dibenzyl 3-chloropyridine-2,5-dicarboxylate | 12 mmol, 4.6 g | ClC=1C(=NC=C(C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C21H16ClNO4
reactant | sodium thiomethoxide | 70 mmol, 5.0 g | C[S-].[Na+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 3-(Methylthio)pyridine-2,5-dicarboxylic acid | 2.8 g | CSC=1C(=NC=C(C1)C(=O)O)C(=O)O | C8H7NO4S
